US09315463B2
5-chloro-4-hydroxy-2-methoxybenzoic acid
To a suspension of 4-amino-5-chloro-2-methoxybenzoic acid (25 g; 0.12 mol) in 125 ml of water was added tetrafluoroboric acid (40.5 ml of 48% aqueous solution). The white cake was then cooled to 0° C. and NaNO2 (9.41 g in 75 mL of H2O) was added drop wise and the whole stirred at that temperature for 30 minutes. The white precipitate was collected by filtration. The diazonium salt was suspended in glacial AcOH (1250 mL) and the resulting suspension was stirred at 100° C. for 1 hour (it became a brown solution). It was allowed to stand at RT for two more hours. The solvent was removed under reduced pressure and the brown oily residue suspended in brine (1250 ml) and extracted with EtOAC (3×400 ml). The combined organic layers were dried over magnesium sulphate, filtered and evaporated under reduced pressure to give brown oil. Purification by preparative reversed-phase HPLC (Et2O/EtOH 0/100 to 40/60) afforded 3.0 g (13%) of a red solid.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.12 mol, 25 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | tetrafluoroboric acid | 40.5 ml | F[B-](F)(F)F.[H+]
reactant | NaNO2 | 75 mL, 9.41 g | N(=O)[O-].[Na+]
solvent | water | 125 ml | O | H2O
product | 5-chloro-4-hydroxy-2-methoxybenzoic acid | 3.0 g, 13% | ClC=1C(=CC(=C(C(=O)O)C1)OC)O | C8H7ClO4
